US08802864B2
b) 5-bromo-7-fluoro-1-benzofuran-2-carboxylic Acid
A solution of [(4-bromo-2-fluoro-6-formylphenyl)oxy]acetic acid (3.79 mmol) in acetic anhydride (10 mL) was treated with sodium acetate (11.37 mmol). The resulting solution was heated to reflux and stirred overnight. The brown reaction solution was allowed to cool to room temperature, and was diluted with toluene (10 mL). The solution was then treated with 1N aq NaOH (20 mL) and was stirred at room temperature for 30 min. The solution was then further diluted with water (50 mL) and was extracted using hexanes. The aqueous phase was then acidified to pH˜1 using 1N aq HCl, and was extracted with ethyl acetate. The ethyl acetate layers were combined, washed with saturated aqueous sodium bicarbonate, dried over magnesium sulfate, filtered, and concentrated in vacuo to provide the title compound (0.47 g, 48% yield) which was used without further purification. MS(ES)+ m/e 258.5, 260.7 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ ppm 7.88 (d, J=1.77 Hz, 1H) 7.75 (dd, J=10.36, 1.77 Hz, 1H) 7.69 (d, J=2.53 Hz, 1H).

reactant | [(4-bromo-2-fluoro-6-formylphenyl)oxy]acetic acid | 3.79 mmol | BrC1=CC(=C(C(=C1)C=O)OCC(=O)O)F | C9H6BrFO4
reactant | sodium acetate | 11.37 mmol | C(C)(=O)[O-].[Na+]
reactant | NaOH | 1N, 20 mL | [OH-].[Na+]
solvent | acetic anhydride | 10 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 50 mL | O | H2O
product | 5-bromo-7-fluoro-1-benzofuran-2-carboxylic Acid | 0.47 g, 48% yield | BrC=1C=C(C2=C(C=C(O2)C(=O)O)C1)F | C9H4BrFO3
